US04918206
A suspension of 3,4-dichlorosalicylaldehyde (191 mg, 1.0 mmol), dimethyl chloromalonate (330 mg, 2.0 mmol), and powdery anhydrous potassium carbonate (414 mg, 3.0 mmol) in 4 ml of methyl ethyl ketone is refluxed under heating for 3 hours and evaporated under reduced pressure. The remaining residue is dissolved in ethyl acetate, washed with 10% hydrochloric acid, then water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to give a residue, which is chromatographed on a silca gel with methylene chloride as an eluent. The eluates are recrystallized from an ethyl acetate-diethyl ether solution to give 185 mg (Yield 75.2%) of methyl 6,7-dichloro-2-benzofurancarboxylate (D-1), m.p. 161.5°-162° C.

reactant | 3,4-dichlorosalicylaldehyde | 1.0 mmol, 191 mg | ClC1=C(C(C=O)=CC=C1Cl)O | C7H4Cl2O2
reactant | dimethyl chloromalonate | 2.0 mmol, 330 mg | ClC(C(=O)OC)C(=O)OC | C5H7ClO4
reactant | potassium carbonate | 3.0 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 4 ml | C(C)C(=O)C | C4H8O
product | methyl 6,7-dichloro-2-benzofurancarboxylate | 185 mg, Yield 75.2% | ClC1=C(C2=C(C=C(O2)C(=O)OC)C=C1)Cl | C10H6Cl2O3
